US08071586B2
iv) 1-[2-(Benzyl-tert-butoxycarbonylmethyl-amino)-ethyl]-cyclopropanecarboxylic acid tert-butyl ester
10.5 g (54.7 mmol, 1 eq.) 1-(2-oxo-ethyl)-cyclopropanecarboxylic acid tert-butyl ester and 13.21 g (1.08 eq.) N-benzylglycine tert-butyl ester were dissolved in 140 ml toluene. 21 g (1.63 eq.) sodium triacetoxyborohydride were added (exotherm from 25° C. to 28° C.) and the reaction mixture was stirred 5 h at room temperature (IPC by GC). A solution of 2 ml (0.64 eq.) acetic acid in 15 ml toluene was added. After 30 min at room temperature, the reaction mixture was cooled to 0° C. and 100 ml sat. aq. sodium hydrogencarbonate solution was added over 40 min (foaming). 50 ml ethyl acetate were added. The mixture was stirred for 30 min at room temperature. The mixture was extracted with 200 ml and a second time with 50 ml ethyl acetate. The organic phases were washed with 50 ml sat. aq. sodium hydrogencarbonate solution followed by 50 ml sat. aq. sodium chloride solution. The organic phases were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to give 21.5 g of the title compound as an oil (ca. 95% yield, corrected for ca 3% residual toluene and 3% amine starting material).

reactant | 1-(2-oxo-ethyl)-cyclopropanecarboxylic acid tert-butyl ester | 54.7 mmol, 10.5 g, 1 eq. | C(C)(C)(C)OC(=O)C1(CC1)CC=O | C10H16O3
reactant | N-benzylglycine tert-butyl ester | 13.21 g, 1.08 eq. | C(C)(C)(C)OC(CNCC1=CC=CC=C1)=O | C13H19NO2
reactant | sodium triacetoxyborohydride | 21 g, 1.63 eq. | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 2 ml, 0.64 eq. | C(C)(=O)O | C2H4O2
reactant | sodium hydrogencarbonate | 100 ml | C(O)([O-])=O.[Na+]
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-[2-(Benzyl-tert-butoxycarbonylmethyl-amino)-ethyl]-cyclopropanecarboxylic acid tert-butyl ester | 21.5 g, ca. 95% yield | C(C)(C)(C)OC(=O)C1(CC1)CCN(CC(=O)OC(C)(C)C)CC1=CC=CC=C1 | C23H35NO4
